US06727264B1
N-{3-[1-(6-{[(2,4-DICHLOROANILINO)CARBONYL]AMINO}HEXYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE:
Prepared by Procedure Q1 (THF) and Scheme AT using N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide and 2,4-dichlorophenyl isocyanate: ESMS m/e: 533.2 (M+H)+.

reactant | N-{3-[1-(6-aminohexyl)-4-piperidinyl]phenyl}-2-methylpropanamide | NCCCCCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O | C21H35N3O
reactant | 2,4-dichlorophenyl isocyanate | ClC1=C(C=CC(=C1)Cl)N=C=O | C7H3Cl2NO
solvent | THF | C1CCOC1 | C4H8O
product | N-{3-[1-(6-{[(2,4-DICHLOROANILINO)CARBONYL]AMINO}HEXYL)-4-PIPERIDINYL]PHENYL}-2-METHYLPROPANAMIDE | ClC1=C(NC(=O)NCCCCCCN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C=CC(=C1)Cl | C28H38Cl2N4O2
